US05730902
Preparation of (R)-4-(trans-4-(4-pentenyl)-4-silacyclohexyl)-1-(2-fluorooctyl)-2,6-difluorobenzene
The general procedure of Example 18 was repeated-using (R)-1-bromo-2-fluorooctane and (2,6-difluoro-4-(4-(4-pentenyl)-4-phenyl-4-silacyclohexyl)phenyl) trifluoromethanesulfonate, thereby obtaining the intended compound.

reactant | (R)-1-bromo-2-fluorooctane | BrC[C@@H](CCCCCC)F | C8H16BrF
reactant | (2,6-difluoro-4-(4-(4-pentenyl)-4-phenyl-4-silacyclohexyl)phenyl) trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1F)C1CC[Si](CC1)(C1=CC=CC=C1)CCCC=C)F)(F)F | C23H25F5O3SSi
product | (R)-4-(trans-4-(4-pentenyl)-4-silacyclohexyl)-1-(2-fluorooctyl)-2,6-difluorobenzene | C(CCC=C)[Si@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)C[C@@H](CCCCCC)F)F | C24H37F3Si
